US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-(2-{[3-(9H-Fluoren-9-ylmethoxycarbonylamino)propyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester
To a stirred mixture of 3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionic acid (2.8 g, 7.6 mmol) and N,N-diisopropylethylamine (2.6 mL, 15 mmol) in DMF (31 mL) was added 2-chloro-1-methylpyridinium iodide (3.9 g, 15 mmol). Once the solids had dissolved, (3-methylaminopropyl)carbamic acid 9H-fluoren-9-ylmethyl ester hydrochloride salt (2.63 g, 7.58 mmol) was added and the resulting mixture was stirred at room temperature until essentially complete by HPLC and LCMS. The mixture was then concentrated under reduced pressure to remove most of the DMF and the residue was dissolved in DCM (30 mL). This mixture was washed with water (3×20 mL) and brine (3×20 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (0-20% MeOH in DCM) to give the title compound (5.0 g, 97% yield) as a white solid.

reactant | 3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionic acid | 7.6 mmol, 2.8 g | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)O)C1=CC=CC=C1 | C21H24N2O4
reactant | N,N-diisopropylethylamine | 15 mmol, 2.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloro-1-methylpyridinium iodide | 15 mmol, 3.9 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | (3-methylaminopropyl)carbamic acid 9H-fluoren-9-ylmethyl ester hydrochloride salt | 7.58 mmol, 2.63 g | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCCCNC)=O
solvent | DMF | 31 mL | CN(C)C=O | C3H7NO
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[3-(9H-Fluoren-9-ylmethoxycarbonylamino)propyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester | 5.0 g, 97% yield | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C40H44N4O5
